US03951987
1.77 g of 4-(p-fluorophenyl)-1,2,3,6-tetrahydropyridine, 0.8 g. of ethylene chlorohydrin, 1.2 g. of sodium carbonate and a few crystals of sodium iodide are heated under reflux conditions in 10 ml. of ethanol for 24 hours and filtered hot and the filtrate is evaporated to dryness. The residual oil is purified by column chromatography on silica gel with acetic acid ethyl ester-ethanol (1:1) as eluting agent. The 1-(2-hydroxyethyl)-4-(p-fluorophenyl)-1,2,3,6-tetrahydropyridine obtained from the eluate melts at 96°-98°C. after recrystallization from cyclohexane.

reactant | 4-(p-fluorophenyl)-1,2,3,6-tetrahydropyridine | 1.77 g | FC1=CC=C(C=C1)C=1CCNCC1 | C11H12FN
reactant | ethylene chlorohydrin | C(CO)Cl | C2H5ClO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | [I-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 1-(2-hydroxyethyl)-4-(p-fluorophenyl)-1,2,3,6-tetrahydropyridine | OCCN1CCC(=CC1)C1=CC=C(C=C1)F | C13H16FNO
